US08609644B2
6α-Acetamidoandrostane-3,17-dione (II-bd)
The title compound II-bd was prepared in 96% yield from 3,3:17,17-bis(ethylendioxy)-6α-acetamidoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 7.61 (d, 1H), 3.67 (m, 1H), 2.51-0.68 (m, 20H), 1.78 (s, 3H), 1.04 (s, 3H), 0.80 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6α-acetamidoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C[C@@H](C3CCCC[C@]3(C)[C@H]1CC4)NC(C)=O | C25H39NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6α-Acetamidoandrostane-3,17-dione | 96% yield | C(C)(=O)N[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C21H31NO3
